US05521147
By a method analogous to that of Example 11, Step J, 6.7 grams (0.034 mole) of 8-amino-3,4-dihydro-2,2-dimethyl-7-fluoro-2H-1-benzopyran was reacted with 4.6 grams (0.035 mole) of N-chlorosuccinimide in 100 mL of N,N-dimethylformamide. The crude reaction product was purified with column chromatography on silica gel, with hexane and 1:4 methylene chloride:hexane as the eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding 4.0 grams of 8-amino-5-chloro-3,4-dihydro-2,2-dimethyl-7-fluoro-2H-1-benzopyran. The NMR spectrum was consistent with the proposed structure.

reactant | 8-amino-3,4-dihydro-2,2-dimethyl-7-fluoro-2H-1-benzopyran | 0.034 mole, 6.7 grams | NC1=C(C=CC=2CCC(OC21)(C)C)F | C11H14FNO
reactant | N-chlorosuccinimide | 0.035 mole, 4.6 grams | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 8-amino-5-chloro-3,4-dihydro-2,2-dimethyl-7-fluoro-2H-1-benzopyran | 4.0 grams | NC1=C(C=C(C=2CCC(OC21)(C)C)Cl)F | C11H13ClFNO
